US04822805
To a suspension of 1-hydroxyimino-1-(3-pyridyl)acetone (1.0 g) in a mixture of dioxane (20 ml) and ethanol (6 ml), were added 2-methoxy-4-methylbenzaldehyde (1.01 g) and conc. ammonia water (15 ml). The solution was stirred at ambient temperature for 8 days. After evaporation, the residue was dissolved in chloroform, and chromatographed on silicagel eluting with a mixture of chloroform and methanol. The fractions were collected, evaporated, and triturated in diisopropyl ether to give 1-hydroxy-2-(2-methoxy-4-methylphenyl)-4-methyl-5-(3-pyridyl)imidazole (1.46 g).

reactant | 1-hydroxyimino-1-(3-pyridyl)acetone | 1.0 g | ON=C(C(=O)C)C=1C=NC=CC1 | C8H8N2O2
reactant | 2-methoxy-4-methylbenzaldehyde | 1.01 g | COC1=C(C=O)C=CC(=C1)C | C9H10O2
reactant | ammonia water | 15 ml | O.N
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | ethanol | 6 ml | C(C)O | C2H6O
product | 1-hydroxy-2-(2-methoxy-4-methylphenyl)-4-methyl-5-(3-pyridyl)imidazole | 1.46 g | ON1C(=NC(=C1C=1C=NC=CC1)C)C1=C(C=C(C=C1)C)OC | C17H17N3O2
